US05571821
To a mixture of sodium hydride (60% dispersion in mineral oil, 52 mg, 1.3 mmol) in dry dimethylformamide (2.0 ml) was added 4-methoxyphenol (0.15 g, 1.2 mmol). After stirring the solution at room temperature of 10 min, 5-amino-4-bromo-3-methylisoxazole (0.20 g, 1.1 mmol) was added, followed by bis(triphenylphosphine)palladium(11) chloride (79 mg, 0.11 mmol). The mixture was heated to 50° C. for 2.5 h and then cooled to room temperature. The dark brown reaction mixture was worked up with ethyl acetate and 5% NaOH. The organic layer was dried with magnesium sulfate, filtered and concentrated under reduced pressure. The residue was chromatographed on silica gel using 20% ethyl acetate in hexanes as eluent to give 0.13 g (51% yield) of 5-amino-4-(4-methoxyphenoxy)-3-methylisoxazole.

reactant | sodium hydride | 1.3 mmol, 52 mg | [H-].[Na+]
reactant | 4-methoxyphenol | 1.2 mmol, 0.15 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 5-amino-4-bromo-3-methylisoxazole | 1.1 mmol, 0.20 g | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | NaOH | [OH-].[Na+]
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-amino-4-(4-methoxyphenoxy)-3-methylisoxazole | 0.13 g, 51% yield | NC1=C(C(=NO1)C)OC1=CC=C(C=C1)OC | C11H12N2O3
